US03965144
Example V. 2-Ethoxy-ethyl N-(2,5-dimethoxy-benzyloxycarbonyl)-para-aminobenzoate
A solution of N-(2,5-dimethoxybenzyloxy-carbonyl)-para-aminobenzoic acid (3.31g) in dry THF (30ml) was treated with oxalyl chloride (1.65g) and one drop of dry DMF. After 0.5 hour the reaction had subsided and the acid chloride solution was added dropwise to a stirred solution of ethoxyethanol (1.2g) in dry pyridine, then poured into water (ca 250ml) and the crude product extracted into ether. The ether was washed with 1N HCl 1N NaOH, water and dried with Mg SO4. The solvent was concentrated in vacuo leaving a yellow oil.

reactant | N-(2,5-dimethoxybenzyloxy-carbonyl)-para-aminobenzoic acid | 3.31g | COC1=C(COC(=O)NC2=CC=C(C(=O)O)C=C2)C=C(C=C1)OC | C17H17NO6
reactant | oxalyl chloride | 1.65g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | ethoxyethanol | 1.2g | C(C)OC(C)O | C4H10O2
reactant | water | ca 250ml | O | H2O
solvent | THF | 30ml | C1CCOC1 | C4H8O
catalyst | DMF | one drop | CN(C)C=O | C3H7NO
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 2-Ethoxy-ethyl N-(2,5-dimethoxy-benzyloxycarbonyl)-para-aminobenzoate | COC1=C(COC(=O)NC2=CC=C(C(=O)OCCOCC)C=C2)C=C(C=C1)OC | C21H25NO7
